US04597902
N-(1-Methylethyl)-N'-[2-[methyl-(2-phenylethyl)amino]ethyl]-N-[2-(phenylsulfonyl)ethyl]urea hemihydrate
A solution of 1,1'-carbonyldiimidazole (8.12 g, 0.05 mole) and N-methyl-N-(2-phenylethyl)-1,2-ethanediamine, 8.0 g (0.0045 mole) in 300 ml of tetrahydrofuran was stirred for 2 hours at room temperature. To the mixture was added 9.37 g (0.0412 mole) of 1-methyl-N-[2-(phenylsulfonyl)ethyl]ethanamine and the reaction was heated at gentle reflux overnight. The reaction was stripped to dryness and dissolved in chloroform-diethyl ether (50-50 v/v) and extracted with water. The organic phase was extracted with 1N sulfuric acid. (Approximately half the product was extracted with acid and half remained in the organic layer). The organic layer was extracted with dilute sodium hydroxide, dried, filtered, and the solvent removed to give an oil. The oil was subjected to column chromatography on Silica Gel using acetone-ethyl acetate as a eluant. This furnished 0.5 g (2.8%) of oil.

reactant | 1,1'-carbonyldiimidazole | 0.05 mole, 8.12 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | N-methyl-N-(2-phenylethyl)-1,2-ethanediamine | CN(CCN)CCC1=CC=CC=C1 | C11H18N2
reactant | 1-methyl-N-[2-(phenylsulfonyl)ethyl]ethanamine | 0.0412 mole, 9.37 g | CC(C)NCCS(=O)(=O)C1=CC=CC=C1 | C11H17NO2S
reactant | acetone ethyl acetate | CC(=O)C.C(C)(=O)OCC
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | chloroform diethyl ether | C(Cl)(Cl)Cl.C(C)OCC
product | N-(1-Methylethyl)-N'-[2-[methyl-(2-phenylethyl)amino]ethyl]-N-[2-(phenylsulfonyl)ethyl]urea hemihydrate | O.CC(C)N(C(=O)NCCN(CCC1=CC=CC=C1)C)CCS(=O)(=O)C1=CC=CC=C1.CC(C)N(C(=O)NCCN(C)CCC1=CC=CC=C1)CCS(=O)(=O)C1=CC=CC=C1 | InChI=1S/2C23H33N3O3S.H2O/c2*1-20(2)26(18-19-30(28,29)22-12-8-5-9-13-22)23(27)24-15-17-25(3)16-14-21-10-6-4-7-11-21;/h2*4-13,20H,14-19H2,1-3H3,(H,24,27);1H2
